### PR TITLE
[Merged by Bors] - feat(Order/Nucleus): two helper lemmas 

### PR DESCRIPTION
**Pull request by Bergschaf**
These lemmas will be used for proving things about sublocales (PR coming soon).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Nucleus.lean [hunk 1]
```diff
@@ -229,5 +229,17 @@ instance : Frame (range n) := .ofMinimalAxioms range.instFrameMinimalAxioms
 the range to the original frame. -/
 def giRestrict (n : Nucleus X) : GaloisInsertion n.restrict Subtype.val := n.giAux
 
+lemma factorizes_iff_le : n ∘ m = m ↔ n ≤ m where
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:232]:
```suggestion
lemma comp_eq_right_iff_le : n ∘ m = m ↔ n ≤ m where
```
feels more discoverable

File: Mathlib/Order/Nucleus.lean [hunk 2]
```diff
@@ -229,5 +229,17 @@ instance : Frame (range n) := .ofMinimalAxioms range.instFrameMinimalAxioms
...
+  mpr h := funext_iff.mpr <| fun _ ↦ le_antisymm (le_trans (h (m _)) (m.idempotent' _)) le_apply
+  mp h := by
+    rw [← coe_le_coe, ← h]
+    exact fun _ ↦ monotone le_apply
+
+lemma range_subset_iff : range m ⊆ range n ↔ n ≤ m  where
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:238]:
```suggestion
@[simp] lemma range_subset_range : range m ⊆ range n ↔ n ≤ m where
```

File: Mathlib/Order/Nucleus.lean [hunk 3]
```diff
@@ -229,5 +229,18 @@ instance : Frame (range n) := .ofMinimalAxioms range.instFrameMinimalAxioms
...
+lemma comp_eq_right_iff_le : n ∘ m = m ↔ n ≤ m where
+  mpr h := funext_iff.mpr <| fun _ ↦ le_antisymm (le_trans (h (m _)) (m.idempotent' _)) le_apply
+  mp h := by
+    rw [← coe_le_coe, ← h]
+    exact fun _ ↦ monotone le_apply
+
+@[simp] lemma range_subset_range : range m ⊆ range n ↔ n ≤ m where
+  mp h x := by
+    rw [← mem_range.mp (Set.range_subset_iff.mp h x)]
+    exact n.monotone (m.le_apply)
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:241]:
```suggestion
    exact n.monotone (m.le_apply
```
```suggestion
    exact n.monotone (m.le_apply)
```
```suggestion
    exact n.monotone m.le_apply)
```

File: Mathlib/Order/Nucleus.lean [hunk 4]
```diff
@@ -229,5 +229,18 @@ instance : Frame (range n) := .ofMinimalAxioms range.instFrameMinimalAxioms
...
+  mpr h :=
+    range_subset_range_iff_exists_comp.mpr (Exists.intro ↑m ((comp_eq_right_iff_le.mpr) h).symm)
```
Comment (YaelDillies) [inline Mathlib/Order/Nucleus.lean:243]:
```suggestion
    range_subset_range_iff_exists_comp.mpr ⟨m, (comp_eq_right_iff_le.mpr h).symm⟩
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
